US05374504
To a well-stirred suspension of 6.95 grams (40 mmol) of sodium hydrosulfite in 100 ml DMF was added 5.10 grams (35.3 mmol) of 4-fluoro benzyl chloride. The mixture was stirred at room temperature for five hours, then brought to 85° C. for 20 hours. The warm mixture was poured into 400 ml ice, and the total volume brought to 700 ml with water. The solid precipitates were isolated to give 2.3 grams (8.1 mmol; 46% yield) of bis(4-fluoro benzyl) sulfone. Recrystallization from toluene gave the pure compound as white needles (top 193° C.).

reactant | sodium hydrosulfite | 40 mmol, 6.95 grams | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
reactant | 4-fluoro benzyl chloride | 35.3 mmol, 5.10 grams | FC1=CC=C(CCl)C=C1 | C7H6ClF
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | bis(4-fluoro benzyl) sulfone | 8.1 mmol, 2.3 grams, 46% yield | FC1=CC=C(CS(=O)(=O)CC2=CC=C(C=C2)F)C=C1 | C14H12F2O2S
